US08119661B2
Step D. The preparation tert-butyl 4-[4-[[(1S,2R)-2-(cyanomethyl)cyclohexyl]amino]-1-piperidyl]-4-methyl-piperidine-1-carboxylate
To a solution 2-[(1R,2S)-2-aminocyclohexyl]acetonitrile (HCl salt, 0.7 g, 3.32 mmol) in MeOH (10 mL) was added triethylamine (0.48 mL, 3.47 mmol) followed of tert-butyl 4-methyl-4-(4-oxo-1-piperidyl)piperidine-1-carboxylate (1 g, 3.38 mmol) at room temperature. A solution containing sodium cyanoborohydride (0.34 g, 4.93 mmol) and zinc(II) chloride (0.22 g, 1.62 mmol) in MeOH (2 mL) was then added dropwise and the mixture stirred at room temperature overnight. Concentrated in vacuo, the residue was diluted in dichloromethane (100 mL) and washed with 1N NaOH (10 mL). The aqueous phase was separated and was extracted with dichloromethane (2×20 mL). The combined organic phase was washed with brine and concentrated in vacuo to provide the title compound, which was used for the next step without any purification. MS (M+1): 419.37.

reactant | 2-[(1R,2S)-2-aminocyclohexyl]acetonitrile | 3.32 mmol, 0.7 g | N[C@@H]1[C@H](CCCC1)CC#N | C8H14N2
reactant | triethylamine | 3.47 mmol, 0.48 mL | C(C)N(CC)CC | C6H15N
reactant | tert-butyl 4-methyl-4-(4-oxo-1-piperidyl)piperidine-1-carboxylate | 3.38 mmol, 1 g | CC1(CCN(CC1)C(=O)OC(C)(C)C)N1CCC(CC1)=O | C16H28N2O3
reactant | sodium cyanoborohydride | 4.93 mmol, 0.34 g | C(#N)[BH3-].[Na+]
solvent | MeOH | 10 mL | CO | CH4O
solvent | MeOH | 2 mL | CO | CH4O
catalyst | zinc(II) chloride | 1.62 mmol, 0.22 g | [Cl-].[Zn+2].[Cl-]
product | tert-butyl 4-[4-[[(1S,2R)-2-(cyanomethyl)cyclohexyl]amino]-1-piperidyl]-4-methyl-piperidine-1-carboxylate | C(#N)C[C@@H]1[C@H](CCCC1)NC1CCN(CC1)C1(CCN(CC1)C(=O)OC(C)(C)C)C | C24H42N4O2
